US06906075B2
2-butylaminomethylbenzimidazole (2.6 g, 13 mmol) was dissolved in 30 mL toluene. Saturated NaHCO3 solution (30 mL) was added followed by 2,3-difluorobenzoyl chloride (1.3 mL, 10 mmol). The reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was diluted with 100 mL ethyl acetate then washed 1×100 mL 1N NaOH followed by 1×100 mL H2O. The organic phase was dried over MgSO4, filtered, and then concentrated. The residue was purified by flash chromatography eluting with 1/1 ethyl acetate/hexane followed by ethyl acetate to afford 2.0 g N-butyl-N-(1H-benzoimidazol-2-ylmethyl)-2,3-difluorobenzamide.

reactant | 2-butylaminomethylbenzimidazole | 13 mmol, 2.6 g | C(CCC)NCC=1NC2=C(N1)C=CC=C2 | C12H17N3
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
reactant | 2,3-difluorobenzoyl chloride | 10 mmol, 1.3 mL | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-butyl-N-(1H-benzoimidazol-2-ylmethyl)-2,3-difluorobenzamide | 2.0 g | C(CCC)N(C(C1=C(C(=CC=C1)F)F)=O)CC1=NC2=C(N1)C=CC=C2 | C19H19F2N3O
